US07910561B2
6-(2-Hydroxyethyl)-3-phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)-1,6-naphthyridin-5(6H)-one (4-3)
To a solution of 2-(3-piperidin-4-yl-1H-1,2,4-triazol-5-yl)pyridine dihydro-chloride (21 mg, 0.07 mmol) and 4-(6-methyl-5-oxo-3-phenyl-5,6-dihydro-1,6-naphthyridin-2-yl)benzaldehyde (17 mg, 0.046 mmol) in dry DMF (1.0 mL) was added triethyl-amine (25 mL, 0.18 mmol). After stirring for 10 minutes acetic acid (30 μL, 0.53 mmol) was added and the mixture was stirred at room temperature over night. Then sodium triacetoxy borohydride (17 mg, 0.08 mmol) was added in one portion. After monitoring by LC/MS it was determined the reaction was not complete and additional sodium triacetoxy borohydride (5 mg, 0.02 mmol)) were added and the reaction was stirred over night. This reaction mixture was concentrated to a smaller volume and adsorbed on silica gel and purified by column chromatography eluting with 20-100% ethyl acetate and then 0.5-9% methanol/ethyl acetate (sat'd NH3). The appropriate fractions were combined and the solvents removed in vacuo. The residue was triturated with diethyl ether to give pure title compound as a pale yellow solid. 1H NMR (500 MHz, CDCl3): δ 8.69 (1H, s), 8.64 (1H, d, J=4.4 Hz), 8.14 (1H, d, J=7.5 Hz), 7.83 (1H, t, J=7.5 Hz), 7.35-7.41 (5H, m), 7.21-7.28 (6H, m), 6.89 (1H, d, J=7.6 Hz), 4.24 (2H, t, J=4.8 Hz), 4.04 (2H, t, J=4.6 Hz), 3.58 (2H, vbr s), 3.00 (2H, vbr s), 2.86 (1H, m), 2.02-2.17 (4H, m). m/e (m+1): 584.1, 292.7 [(m+2)/2].

reactant | 2-(3-piperidin-4-yl-1H-1,2,4-triazol-5-yl)pyridine dihydro-chloride | 0.07 mmol, 21 mg | Cl.Cl.N1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1
reactant | 4-(6-methyl-5-oxo-3-phenyl-5,6-dihydro-1,6-naphthyridin-2-yl)benzaldehyde | 0.046 mmol, 17 mg | CN1C(C=2C=C(C(=NC2C=C1)C1=CC=C(C=O)C=C1)C1=CC=CC=C1)=O | C22H16N2O2
reactant | triethyl-amine | 0.18 mmol, 25 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 0.53 mmol, 30 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 0.08 mmol, 17 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxy borohydride | 0.02 mmol, 5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 6-(2-Hydroxyethyl)-3-phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)-1,6-naphthyridin-5(6H)-one | OCCN1C(C=2C=C(C(=NC2C=C1)C1=CC=C(C=C1)CN1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C35H33N7O2
